US06911468B2
(2) Sodium (2R)-2-{4-[5-methyl-1-(4-dodecyloxyphenethyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoate
Ethanol (3 ml) and a solution of 1N sodium hydroxide in ethanol (0.480 ml) were added to (2R)-2-{4-[5-methyl-1-(4-dodecyloxyphenethyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoic acid (325 mg, 0.533 mmol) and the mixture was concentrated. To the residue was added ether to give the object compound as a solid. 160 mg (yield: 52.8%)

reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | (2R)-2-{4-[5-methyl-1-(4-dodecyloxyphenethyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoic acid | 0.533 mmol, 325 mg | CC1=CC=C(N1CCC1=CC=C(C=C1)OCCCCCCCCCCCC)C1=CC=C(O[C@@H](C(=O)O)CC2=CC=CC=C2)C=C1 | C40H51NO4
solvent | ethanol | 0.480 ml | C(C)O | C2H6O
solvent | Ethanol | 3 ml | C(C)O | C2H6O
product | Sodium (2R)-2-{4-[5-methyl-1-(4-dodecyloxyphenethyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoate | yield: 52.8% | CC1=CC=C(N1CCC1=CC=C(C=C1)OCCCCCCCCCCCC)C1=CC=C(O[C@@H](C(=O)[O-])CC2=CC=CC=C2)C=C1.[Na+] | InChI=1S/C40H51NO4.Na/c1-3-4-5-6-7-8-9-10-11-15-30-44-36-23-19-33(20-24-36)28-29-41-32(2)18-27-38(41)35-21-25-37(26-22-35)45-39(40(42)43)31-34-16-13-12-14-17-34;/h12-14,16-27,39H,3-11,15,28-31H2,1-2H3,(H,42,43);/q;+1/p-1/t39-;/m1./s1
